* C:\Program Files\LTC\LTspiceIV\Photoresistor_Array\Photoresistor_Array.asc
Rload0 Read0 0 {Rload}
XU0 Vcon0 A_Out0 arduino_output
Vcon0 Vcon0 0 {Vcon0}
D0 P001 Read0 D
Vl0 P002 0 {lux0_0}
XU1 Vcon1 A_Out1 arduino_output
Vcon1 Vcon1 0 {Vcon1}
D1 P003 Read0 D
Vl1 P004 0 {lux1_0}
XU2 Vcon2 A_Out2 arduino_output
Vcon2 Vcon2 0 {Vcon2}
D2 P005 Read0 D
Vl2 P006 0 {lux2_0}
XU3 Vcon3 A_Out3 arduino_output
Vcon3 Vcon3 0 {Vcon3}
D3 P007 Read0 D
Vl3 P008 0 {lux3_0}
XU4 Vcon4 A_Out4 arduino_output
Vcon4 Vcon4 0 {Vcon4}
D4 P009 Read0 D
Vl4 P010 0 {lux4_0}
XU5 Vcon5 A_Out5 arduino_output
Vcon5 Vcon5 0 {Vcon5}
D5 P011 Read0 D
Vl5 P012 0 {lux5_0}
XU6 Vcon6 A_Out6 arduino_output
Vcon6 Vcon6 0 {Vcon6}
D6 P013 Read0 D
Vl6 P014 0 {lux6_0}
XX0 P002 A_Out0 P001 photoresistor
XX1 P004 A_Out1 P003 photoresistor
XX2 P006 A_Out2 P005 photoresistor
XX3 P008 A_Out3 P007 photoresistor
XX4 P010 A_Out4 P009 photoresistor
XX5 P012 A_Out5 P011 photoresistor
XX6 P014 A_Out6 P013 photoresistor
D7 P015 Read1 D
Vl7 P016 0 {lux0_1}
D8 P017 Read1 D
Vl8 P018 0 {lux1_1}
D9 P019 Read1 D
Vl9 P020 0 {lux2_1}
D10 P021 Read1 D
Vl10 P022 0 {lux3_1}
D11 P023 Read1 D
Vl11 P024 0 {lux4_1}
D12 P025 Read1 D
Vl12 P026 0 {lux5_1}
D13 P027 Read1 D
Vl13 P028 0 {lux6_1}
XX7 P016 A_Out0 P015 photoresistor
XX8 P018 A_Out1 P017 photoresistor
XX9 P020 A_Out2 P019 photoresistor
XX10 P022 A_Out3 P021 photoresistor
XX11 P024 A_Out4 P023 photoresistor
XX12 P026 A_Out5 P025 photoresistor
XX13 P028 A_Out6 P027 photoresistor
D14 P029 Read2 D
Vl14 P030 0 {lux0_2}
D15 P031 Read2 D
Vl15 P032 0 {lux1_2}
D16 P033 Read2 D
Vl16 P034 0 {lux2_2}
D17 P035 Read2 D
Vl17 P036 0 {lux3_2}
D18 P037 Read2 D
Vl18 P038 0 {lux4_2}
D19 P039 Read2 D
Vl19 P040 0 {lux5_2}
D20 P041 Read2 D
Vl20 P042 0 {lux6_2}
XX14 P030 A_Out0 P029 photoresistor
XX15 P032 A_Out1 P031 photoresistor
XX16 P034 A_Out2 P033 photoresistor
XX17 P036 A_Out3 P035 photoresistor
XX18 P038 A_Out4 P037 photoresistor
XX19 P040 A_Out5 P039 photoresistor
XX20 P042 A_Out6 P041 photoresistor
D21 P043 Read3 D
Vl21 P044 0 {lux0_3}
D22 P045 Read3 D
Vl22 P046 0 {lux1_3}
D23 P047 Read3 D
Vl23 P048 0 {lux2_3}
D24 P049 Read3 D
Vl24 P050 0 {lux3_3}
D25 P051 Read3 D
Vl25 P052 0 {lux4_3}
D26 P053 Read3 D
Vl26 P054 0 {lux5_3}
D27 P055 Read3 D
Vl27 P056 0 {lux6_3}
XX21 P044 A_Out0 P043 photoresistor
XX22 P046 A_Out1 P045 photoresistor
XX23 P048 A_Out2 P047 photoresistor
XX24 P050 A_Out3 P049 photoresistor
XX25 P052 A_Out4 P051 photoresistor
XX26 P054 A_Out5 P053 photoresistor
XX27 P056 A_Out6 P055 photoresistor
Rload1 Read1 0 {Rload}
Rload2 Read2 0 {Rload}
Rload3 Read3 0 {Rload}

* block symbol definitions
.subckt photoresistor Lux R+ R-
B1 R+ R- I=V(R+,R-)*V(l1)**{expon}/{rlum1}
E1 N001 0 Lux 0 1
Rdark R+ R- {Rdark}
C1 l1 0 Q=51.95u*ln(1+ABS(x)*7.8E-3)
C2 R+ R- 3.5p
D2 N001 l1 Dsw
R1 Lux 0 1K
.model dsw D(Ron=17k Roff=100k Vfwd=0)
.param Rdark=5MEG
.param expon=.55 rlum1=80k
.ends photoresistor

.model D D
.lib C:\Program Files\LTC\LTspiceIV\lib\cmp\standard.dio
.include C:\Program Files\LTC\LTspiceIV\lib\sub\Arduino_Output.sub
.op
*********************************** Lux Parameters***********************************
.param
+lux0_0=0 lux1_0=0 lux2_0=0 lux3_0=0 lux4_0=0 lux5_0=0 lux6_0=0
+lux0_1=0 lux1_1=0 lux2_1=0 lux3_1=0 lux4_1=0 lux5_1=0 lux6_1=0
+lux0_2=0 lux1_2=0 lux2_2=0 lux3_2=0 lux4_2=0 lux5_2=0 lux6_2=0
+lux0_3=0 lux1_3=0 lux2_3=0 lux3_3=0 lux4_3=0 lux5_3=0 lux6_3=100
*********************************** End Lux Parameters*****************************
.param Rdark=1MEG Rlight=1 Rload=100k
****************************** Voltage Parameters*******************************
.param
+vcon0=-5 vcon1=-5 vcon2=-5 vcon3=-5 vcon4=-5 vcon5=-5 vcon6=5
*************************** End Voltage Parameters***************************
.backanno
.end
